US07423030B2
16.4. 4-Ethyl-7-methoxy-N-[1-(naphthalen-2-ylmethyl)piperidin-4-yl]phthalazin-1-amine
This compound is obtained according to the procedure described in 1.4. by reacting 1-chloro-4-ethyl-7-methoxyphthalazine with 4-amino-1-(naphthalen-2-ylmethyl)piperidine.

reactant | 1-chloro-4-ethyl-7-methoxyphthalazine | ClC1=NN=C(C2=CC=C(C=C12)OC)CC | C11H11ClN2O
reactant | 4-amino-1-(naphthalen-2-ylmethyl)piperidine | NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1 | C16H20N2
product | 4-Ethyl-7-methoxy-N-[1-(naphthalen-2-ylmethyl)piperidin-4-yl]phthalazin-1-amine | C(C)C1=NN=C(C2=CC(=CC=C12)OC)NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1 | C27H30N4O
